US05532349
In 160 ml of acetic anhydride, 13.5 g of urea was suspended and 30 g of trifluoromethacrylic acid was added to the suspension. The resulting mixture was allowed to react at 100° C. for 1 hour and the reaction mixture was concentrated under reduced pressure. The obtained oil was crystallized from 150 ml of water and then recrystallized from 150 ml of water to obtain 25.9 g of 5-trifluoromethyl-5,6-dihydrouracil.

reactant | urea | 13.5 g | NC(=O)N | CH4N2O
reactant | trifluoromethacrylic acid | 30 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
solvent | acetic anhydride | 160 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-trifluoromethyl-5,6-dihydrouracil | 25.9 g | FC(C1C(NC(NC1)=O)=O)(F)F | C5H5F3N2O2
